US04496743
1-[(2-mercapto-3,3-dimethyl-cyclopentyl)carbonyl]-L-proline (trans diastereoisomers)
Water (27 ml) and 32% NH4OH (18 ml) are added to the trans diastereoisomer of 1-[(2-benzoylthio-3,3-dimethylcyclopentyl)carbonyl]-L-proline (5.25 g) characterized by m.p. 153° C. kept under Argon atmosphere. The reaction mixture is stirred at room temperature for 21/2 hours then an aqueous solution saturated with (NH4)2SO4 (45 ml) is added and the mixture is stirred at 0°-5° C.

reactant | NH4OH | 18 ml | [NH4+].[OH-]
reactant | 1-[(2-benzoylthio-3,3-dimethylcyclopentyl)carbonyl]-L-proline | 5.25 g | C(C1=CC=CC=C1)(=O)SC1C(CCC1(C)C)C(=O)N1[C@H](C(=O)O)CCC1 | C20H25NO4S
solvent | Water | 27 ml | O | H2O
product | 1-[(2-mercapto-3,3-dimethyl-cyclopentyl)carbonyl]-L-proline | SC1C(CCC1(C)C)C(=O)N1[C@H](C(=O)O)CCC1 | C13H21NO3S
